US05912247
A mixture of 2-[4-(benzyloxycarbonyl)piperazin-1-yl]-4-[(2-propen-1-yl)oxy]quinazoline (1.00 g), a solution of osmium tetroxide in t-butanol (osmium tetroxide 106 mg/t-butanol 8.36 g) (248 mg) and 4-methylmorpholine N-oxide (305 mg) in water (9 ml)--acetone (28 ml) is stirred at room temperature for 21 hours. Acetone is distilled off from the reaction mixture under reduced pressure, and the resultant is diluted with ethyl acetate, and the mixture is washed with 10% aqueous sodium sulfite solution and water. The ethyl acetate solution is dried over anhydrous magnesium sulfate and evaporated to dryness under reduced pressure, and the residue is purified by medium pressure liquid column chromatography (eluent, chloroform:methanol=50:1, v/v) to give 2-[4-(benzyloxycarbonyl)piperazin-1-yl]-4-[(RS)-(2,3-dihydroxypropyl)oxy]quinazoline (1.03 g) as crystals.

reactant | 2-[4-(benzyloxycarbonyl)piperazin-1-yl]-4-[(2-propen-1-yl)oxy]quinazoline | 1.00 g | C(C1=CC=CC=C1)OC(=O)N1CCN(CC1)C1=NC2=CC=CC=C2C(=N1)OCC=C | C23H24N4O3
reactant | 4-methylmorpholine N-oxide | 305 mg | C[N+]1(CCOCC1)[O-] | C5H11NO2
reactant | acetone | 28 ml | CC(=O)C | C3H6O
solvent | t-butanol | 106 mg | C(C)(C)(C)O | C4H10O
solvent | water | 9 ml | O | H2O
catalyst | osmium tetroxide | [Os](=O)(=O)(=O)=O
product | 2-[4-(benzyloxycarbonyl)piperazin-1-yl]-4-[(RS)-(2,3-dihydroxypropyl)oxy]quinazoline | 1.03 g | C(C1=CC=CC=C1)OC(=O)N1CCN(CC1)C1=NC2=CC=CC=C2C(=N1)OCC(CO)O | C23H26N4O5
